* EESchema Netlist Version 1.1 (Spice format) creation date: lun. 17 févr. 2014 12:13:38 CET

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

*Sheet Name:/
*Sheet Name:/connector out/
XU12  18 22 0 0 JST		
XU11  27 21 10 25 28 26 0 0 USB*2		
*Sheet Name:/USB2AX/
C16  9 0 0.1uF		
C19  9 0 0.1uF		
C18  9 0 4.7uF		
GS2  41 61 GS2		
K2  0 38 40 CONN_3		
TH11  32 40 100R		
R13  32 41 150R		
D11  0 32 5.1V		
R14  39 61 150R		
XU4  30 37 0 0 LED-BICOLORE		
R15  37 59 150R		
R16  31 30 150R		
C13  34 0 1uF		
C12  46 0 18pF		
C11  47 0 18pF		
Q1  47 46 16MHz		
R12  7 49 22R		
R11  8 36 22R		
XU3  47 46 0 9 44 43 42 61 41 45 59 31 56 29 55 35 52 51 50 60 58 57 48 54 53 34 0 49 36 9 9 33 ATMEGA32U2		
*Sheet Name:/Alim/
D2  133 0 LED		
R45  5 133 160		
C27  134 0 22uF		
XU13  9 5 0 AP1117		
C10  132 0 10uF		
*Sheet Name:/connectorIn/
R50  9 307 330		
D6  307 0 LED		
R49  306 309 330		
R48  308 304 330		
R47  305 310 330		
D5  309 0 LED		
D4  304 0 LED		
D3  310 0 LED		
C35  308 0 4.7u		
C36  306 0 4.7u		
R46  311 0 1k		
R51  305 303 1k		
Q4  305 311 9 PNP		
Q5  308 303 9 PNP		
C34  305 0 4.7u		
J2  308 2 1 0 USB_2		
J1  306 12 3 0 USB_2		
P1  0 305 CONN_2		
*Sheet Name:/Sensors/
C39  5 0 100n		
C40  5 0 100n		
C41  278 0 2.2u		
C38  5 0 1u		
C37  5 0 100n		
XU14  293 292 291 277 285 280 281 5 0 282 283 279 5 287 288 289 290 0 302 278 284 286 19 23 ITG-3200		
ADXL3501  5 301 300 19 299 23 0 5 298 297 296 295 0 5 294 0 ADXL350		
*Sheet Name:/USB2AX2/
C26  9 0 0.1uF		
C25  9 0 0.1uF		
C24  9 0 4.7uF		
GS1  83 81 GS2		
K1  0 85 82 CONN_3		
TH1  84 82 100R		
R23  84 83 150R		
D1  0 84 5.1V		
R24  76 81 150R		
XU2  72 73 0 0 LED-BICOLORE		
R25  73 74 150R		
R26  75 72 150R		
C23  87 0 1uF		
C22  64 0 18pF		
C21  63 0 18pF		
Q2  63 64 16MHz		
R22  14 65 22R		
R21  15 66 22R		
XU1  63 64 0 9 67 68 69 81 83 77 74 75 71 62 78 79 80 93 94 86 92 91 90 89 88 87 0 65 66 9 9 70 ATMEGA32U2		
*Sheet Name:/Arduino/
XU16  214 206 0 276 275 JST_3		
XU15  207 208 0 274 273 JST_3		
C52  254 0 100n		
FB1  5 254 FILTER		
C46  5 0 100n		
C45  138 0 100n		
C48  138 0 100n		
C50  138 0 100n		
C51  138 0 100n		
C53  138 0 100n		
C49  5 0 100n		
C47  5 0 100n		
C44  5 0 100n		
C43  5 0 100n		
C42  5 0 100n		
R55  22 5 2.2k		
R56  18 5 2.2k		
SW3  0 260 SW_PUSH		
R60  252 250 330		
R61  251 253 330		
D8  253 0 LED		
D7  250 0 LED		
XU17  5 206 214 255 260 261 262 263 264 0 266 267 252 268 251 259 269 270 271 265 XBEE		
P2  180 272 156 184 256 0 CONN_6		
Q6  258 257 5 MOS_P		
SW2  258 5 SW_PUSH		
R58  19 5 2.2k		
R57  23 5 2.2k		
C55  137 0 10u		
C54  137 0 100n		
FB2  138 137 FILTER		
R54  5 247 R		
R59  139 0 R		
R62  140 0 R		
R52  20 150 R		
R53  24 166 R		
C59  140 0 22pF		
C57  136 0 C		
C56  135 0 C		
X1  135 136 12MHz		
C60  149 0 C		
C58  142 0 C		
X2  142 149 32MHz		
SAM3X8E1  221 222 214 206 207 208 209 210 211 138 5 0 245 225 231 197 164 171 147 212 218 241 246 226 232 160 159 172 148 213 219 242 0 137 136 135 166 150 17 140 220 24 20 0 138 0 167 142 149 205 139 5 247 0 233 138 5 0 141 215 138 5 248 228 234 161 168 143 151 18 238 237 249 0 254 162 169 144 152 216 239 243 230 229 235 23 19 145 153 217 240 244 224 223 236 163 170 146 154 155 165 189 188 138 5 0 178 180 184 156 189 193 198 202 174 176 179 181 185 157 190 194 199 138 5 0 173 182 186 258 191 195 200 203 175 177 193 183 187 158 192 196 201 204 AT91SAM3X8E		
*Sheet Name:/Arduino/programmation/
XU19  0 338 0 222 5 SN74LVC1G125		
C67  5 0 100n		
C66  9 0 100n		
C65  9 0 100n		
C64  9 0 100n		
R67  167 331 10k		
R66  17 325 1k		
R68  0 330 10k		
D9  314 9 DIODE		
R65  9 314 22R		
R69  9 313 22R		
R70  9 312 22R		
D12  312 318 LED		
D10  313 337 LED		
P3  324 9 328 326 314 0 CONN_6		
C63  315 0 22p		
X3  334 336 12MHz 20pF		
C62  336 0 22p		
C61  334 0 22p		
R64  335 2 22R		
R63  1 320 22R		
XU18  334 336 0 9 323 316 317 159 338 318 337 332 330 329 328 326 324 322 321 319 333 331 257 327 325 315 0 320 335 9 9 314 ATMEGA16U2		
*Sheet Name:/USBHUB/
R74  16 131 330		
R73  21 104 330		
R72  27 130 330		
R71  17 105 330		
D16  131 0 LED		
D15  104 0 LED		
D14  130 0 LED		
D13  105 0 LED		
C71  9 0 100n		
C70  5 0 4.7u		
C69  5 0 4.7u		
C68  5 0 4.7u		
XU6  0 9 103 119 0 9 123 122 129 16 21 101 121 27 17 102 TPS2044		
C4  0 115 100n		
C1  3 0 22p		
SW1  0 115 SW_PUSH		
R4  115 5 10k		
C3  125 0 27p		
C5  126 0 27p		
C2  12 0 22p		
R1  3 114 27R		
R2  12 113 27R		
R3  111 114 1.5k		
Q3  125 126 6MHz		
XU5  111 114 113 0 115 127 5 5 5 128 118 109 96 120 117 108 97 103 102 107 98 119 0 121 100 99 123 101 106 95 122 129 110 116 122 129 112 124 0 126 125 5 5 0 TUSB2077		
*Sheet Name:/USBHUB/USBFilter/
XU10  0 114 0 113 0 13 0 4 SN75240		
XU9  0 6 0 11 0 25 0 26 SN75240		
XU8  0 28 0 10 0 20 0 24 SN75240		
XU7  0 7 0 8 0 15 0 14 SN75240		
C14  98 0 22pF		
R9  98 24 27R		
R29  24 0 15k		
R30  20 0 15k		
R10  107 20 27R		
C15  107 0 22pF		
C20  100 0 22pF		
R18  100 10 27R		
R32  10 0 15k		
R31  28 0 15k		
R17  99 28 27R		
C17  99 0 22pF		
C33  112 0 22pF		
R38  112 13 27R		
R44  13 0 15k		
R43  4 0 15k		
R37  124 4 27R		
C32  124 0 22pF		
C28  95 0 22pF		
R33  95 26 27R		
R39  26 0 15k		
R40  25 0 15k		
R34  106 25 27R		
C29  106 0 22pF		
C31  110 0 22pF		
R36  110 11 27R		
R42  11 0 15k		
R41  6 0 15k		
R35  116 6 27R		
C30  116 0 22pF		
C8  97 0 22pF		
R7  97 7 27R		
R27  7 0 15k		
R28  8 0 15k		
R8  108 8 27R		
C9  108 0 22pF		
C7  109 0 22pF		
R6  109 15 27R		
R20  15 0 15k		
R19  14 0 15k		
R5  96 14 27R		
C6  96 0 22pF		

.end
